US08791114B2
1-[3-(3,4-Dimethoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-2-phenyl-ethanone (29).
A scintillation vial equipped with a stir bar was charged with 3-(3,4-dimethoxy-phenyl)-4,5-dihydro-1H-pyrazole (412 mg, 2 mmol), Hunigs base (1 mL, 6 mmol) and dry CH2Cl2 (10 mL). To this mixture was added phenyl-acetyl chloride, (0.27 mL, 2 mmol) and the reaction was stirred at RT for 3 h. LC-MS indicated consumption of SM. The mixture was diluted with CH2Cl2 (50 mL) and added to water (50 mL). The phases were separated and the CH2Cl2 phase was washed with saturated Na2CO3, (50 mL), dried (Na2SO4) and the solvent was evaporated under reduced pressure. The material was purified using a 40 g silica cartridge eluting with heptane-EtOAc, gradient 0 to 100% EtOAc. Amount obtained: 123 mg, 0.37 mmol, 19% yield. LC-MS (ESI) m/e 325 (M+H). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.21 (t, J=10.03 Hz, 2H) 3.94 (s, 3H) 3.98 (s, 3H) 4.04 (t, J=10.03 Hz, 2H) 4.11 (s, 2H) 6.90 (d, J=8.35 Hz, 1H) 7.16 (dd, J=8.27, 1.88 Hz, 1H) 7.21-7.26 (m, 1H) 7.31 (t, J=7.42 Hz, 2H) 7.40-7.44 (m, 3H).

reactant | 3-(3,4-dimethoxy-phenyl)-4,5-dihydro-1H-pyrazole | 2 mmol, 412 mg | COC=1C=C(C=CC1OC)C1=NNCC1 | C11H14N2O2
reactant | Hunigs base | 6 mmol, 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | phenyl-acetyl chloride | 2 mmol, 0.27 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(3,4-Dimethoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-2-phenyl-ethanone | 19% yield | COC=1C=C(C=CC1OC)C1=NN(CC1)C(CC1=CC=CC=C1)=O | C19H20N2O3
